US06906084B2
(i) 1-(3-Methoxy-benzyl)-1H-indole-2-carboxylic acid (4-iodo-phenyl)-amide
To a solution of 500 mg 1-(3-Methoxy-benzyl)-1H-indole-2-carboxylic acid in 8 ml DCM and 0.9 NEt3 452 mg, BOP-Cl was added at RT and the mixture was stirred for 30 min. After addition of 583 mg 4-Iodo-phenylamine the mixture was stirred for 16 h. Then the solvent was removed under reduced pressure to yield a white precipitate, which was washed with 1 ml MeOH/DCM 1:1.

reactant | 1-(3-Methoxy-benzyl)-1H-indole-2-carboxylic acid | 500 mg | COC=1C=C(CN2C(=CC3=CC=CC=C23)C(=O)O)C=CC1 | C17H15NO3
reactant | NEt3 | 452 mg | CCN(CC)CC | C6H15N
reactant | BOP-Cl | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | 4-Iodo-phenylamine | 583 mg | IC1=CC=C(C=C1)N | C6H6IN
solvent | DCM | 8 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-Methoxy-benzyl)-1H-indole-2-carboxylic acid (4-iodo-phenyl)-amide | IC1=CC=C(C=C1)NC(=O)C=1N(C2=CC=CC=C2C1)CC1=CC(=CC=C1)OC | C23H19IN2O2
